US07482341B2
(5-Bromo-6-diethylcarbamoylmethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (0.116 g in dioxane (5 mL) was treated successively at RT with potassium carbonate (0.124 g), tetrakis(triphenylphosphine) palladium(0), 35 mg, and trimethylboroxine (38 mg) and then heated to reflux for 22 h. The mixture was cooled to RT, filtered and the filter cake washed with AcOEt. The filtrate was concentrated in vacuo, the residue purified by flash chromatography (heptane/AcOEt 1:1 to 1:4) to give (6-diethylcarbamoylmethyl-5-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester (37 mg) as a colorless gum. MS (ESI): 322.4 (MH+).

reactant | (5-Bromo-6-diethylcarbamoylmethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=C(C=C1)Br)CC(N(CC)CC)=O)=O | C16H24BrN3O3
reactant | potassium carbonate | 0.124 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 38 mg | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (6-diethylcarbamoylmethyl-5-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 37 mg | C(C)(C)(C)OC(NC1=NC(=C(C=C1)C)CC(N(CC)CC)=O)=O | C17H27N3O3
